US06080773
To a solution of 6.5 g of 2-bromo-4-fluoro-benzaldehyde (prepared by the oxidation of 2-bromo-4-fluoro-toluene by the method reported by V. J. Bauer, B. J. Duffy, D. Hoffman, S. S. Klioze, R. W. Kosley, Jr., A. R. McFadden, L. L. Martin, H. H. Ong and H. M. Geyer III, J. Med. Chem., 1976, 19, 1315) in 25 ml of ethanol was added triethylorthoformate followed by 0.05 g of p-toluene sulfonic acid. The solution was stirred at room temperature for 2.25 h then diluted with 100 ml of a 5% sodium carbonate solution and extracted with two 100 ml portions of ether. The combined organic layers were washed with 50 ml of brine and dried over sodium sulfate. Evaporation of the solvent yielded 8.8 g of 2-bromo-4-fluoro-benzaldehyde diethyl acetal as an oil, 1H NMR (200 MHz; CDCl3)δH 5.60 (CHO3).

reactant | 2-bromo-4-fluoro-benzaldehyde | 6.5 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | 2-bromo-4-fluoro-toluene | BrC1=C(C=CC(=C1)F)C | C7H6BrF
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
reactant | p-toluene sulfonic acid | 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 2-bromo-4-fluoro-benzaldehyde diethyl acetal | 8.8 g | C(C)OC(C1=C(C=C(C=C1)F)Br)OCC | C11H14BrFO2
